US05877120
Preparation of ethyl 4-(5-chlorothiophen-2-yl)-2-[(4,6-dimethoxypyridin-2-yl)-α-ethoxycarbonylmethyl]-nicotinate (Compound No. 103)
Next, 2.9 g of potassium t-butoxide was added to 50 ml of N,N-dimethylformamide. To the resulting mixture, 8.9 g of ethyl 4-(5-chlorothiophen-2-yl)-2-(α-ethoxycarbonylmethyl)nicotinate dissolved in N,N-dimethylformamide was added dropwise at -10° C., and the resulting reaction solution was stirred at room temperature for 1 hour. 5.6 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine was added thereto, and the reaction solution was stirred at a temperature of from 60° C. to 80° C. for 8 hours. After completion of the reaction, the reaction solution was poured into water and brought to pH 4-5 and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The ethyl acetate was distilled off, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain 2.7 g (yield 23%) of the desired compound. m.p.: 127°-132° C.

reactant | potassium t-butoxide | 2.9 g | CC(C)([O-])C.[K+]
reactant | ethyl 4-(5-chlorothiophen-2-yl)-2-(α-ethoxycarbonylmethyl)nicotinate | 8.9 g | ClC1=CC=C(S1)C1=CC=NC(=C1C(=O)OCC)CC(=O)OCC | C16H16ClNO4S
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 5.6 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(5-chlorothiophen-2-yl)-2-[(4,6-dimethoxypyridin-2-yl)-α-ethoxycarbonylmethyl]-nicotinate | 2.7 g, yield 23% | ClC1=CC=C(S1)C1=CC=NC(=C1C(=O)OCC)C(C(=O)OCC)C1=NC(=CC(=C1)OC)OC | C23H23ClN2O6S
